US05686445
3,4-Dichloro-N-[4-[(5(6H)-phenanthridinyl)carbonyl]phenyl]benzamide
A mixture of 150 mg (0.5 mmol) of 5-(4-aminobenzoyl)-5,6-dihydrophenanthridine and 115 mg (0.55 mmol) of 3,4-dichlorobenzoyl chloride in 1 ml of pyridine is stirred at room temperature for 6 hours. To the mixture is added 6 ml of 2N HCl and the mixture stirred and filtered to give a solid. The solid is washed with water, 2N sodium carbonate and water to give 254 mg of crystals, m.p. 94°-95° C. The solid is chromatographed on thick layer silica gel plates with hexane ethyl-acetate (1:1) as solvent to give 107 mg of solid. Mass Spec (FAB) 473 (M+H).

reactant | 5-(4-aminobenzoyl)-5,6-dihydrophenanthridine | 0.5 mmol, 150 mg | NC1=CC=C(C(=O)N2C=3C=CC=CC3C3=CC=CC=C3C2)C=C1 | C20H16N2O
reactant | 3,4-dichlorobenzoyl chloride | 0.55 mmol, 115 mg | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | HCl | 2N, 6 ml | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-Dichloro-N-[4-[(5(6H)-phenanthridinyl)carbonyl]phenyl]benzamide | 254 mg | ClC=1C=C(C(=O)NC2=CC=C(C=C2)C(=O)N2C=3C=CC=CC3C3=CC=CC=C3C2)C=CC1Cl | C27H18Cl2N2O2
